US08030334B2
4-Methyl-piperazine-1-sulfonic acid 5-bromo-pyridin-3-yl ester and N-methyl-indoleboronic acid are processed according to the method described in Example 100 to give 4-Methyl-piperazine-1-sulfonic acid 5-(1-methyl-1H-indol-2-yl)-pyridin-3-yl ester. MS (ESI) m/z 387.1 (M+H)+.

reactant | 4-Methyl-piperazine-1-sulfonic acid 5-bromo-pyridin-3-yl ester | BrC=1C=C(C=NC1)OS(=O)(=O)N1CCN(CC1)C | C10H14BrN3O3S
reactant | N-methyl-indoleboronic acid | CN1C(=CC2=CC=CC=C12)B(O)O | C9H10BNO2
product | 4-Methyl-piperazine-1-sulfonic acid 5-(1-methyl-1H-indol-2-yl)-pyridin-3-yl ester | CN1C(=CC2=CC=CC=C12)C=1C=C(C=NC1)OS(=O)(=O)N1CCN(CC1)C | C19H22N4O3S
